US09403813B2
(S)-1-(5-Methyl-2-[1,2,3]triazol-2-yl-benzoyl)-azetidine-2-carboxylic acid methyl ester (A-2-1)
TBTU (4.93 g, 15.4 mmol) was added to a rt solution of 5-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid A-1-2 (2.40 mg, 11.8 mmol) and DIPEA (8.09 mL, 47.2 mmol) in DCM (24 mL) and after stirring for 15 min, (S)-methyl azetidine-2-carboxylate HCl (2.03 g, 13 mmol) was added and the resulting mixture was stirred at rt for 1 h. The rxn mixture was diluted with DCM and water, the layers were separated and the aq. layer was extracted with DCM (1×). The combined org. extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude was purified by FC (EtOAc/hept 5:1) to obtain the title compound A-2-1 as a white solid. LC-MS A: tR=0.70 min; [M+H]+=301.18.

reactant | TBTU | 15.4 mmol, 4.93 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid | CC=1C=CC(=C(C(=O)O)C1)N1N=CC=N1 | C10H9N3O2
reactant | DIPEA | 47.2 mmol, 8.09 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-methyl azetidine-2-carboxylate HCl | 13 mmol, 2.03 g | Cl.N1[C@@H](CC1)C(=O)OC
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-1-(5-Methyl-2-[1,2,3]triazol-2-yl-benzoyl)-azetidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CC1)C(C1=C(C=CC(=C1)C)N1N=CC=N1)=O | C15H16N4O3
